US07244843B2
Step B. Preparation of (R)-1,3,4,10b-tetrahydro-9-(cis-1-propenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(cis-1-propenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (40 mg, 0.1 mmol) in dry ether (2 mL) was added hydrochloric acid (1 mL). The reaction was stirred for 1 h and then conc. in vacuo to a white solid. The solid was dissolved in water and lyophilized to 24 mg of a white solid. MS (ESI) 297 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(cis-1-propenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.1 mmol, 40 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)\C=C/C)C(F)(F)F)=O)CC1 | C20H23F3N2O3
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | (R)-1,3,4,10b-tetrahydro-9-(cis-1-propenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt | Cl.C(=C/C)/C1=CC(=C2C(N3[C@H](C2=C1)CNCC3)=O)C(F)(F)F | InChI=1S/C15H15F3N2O.ClH/c1-2-3-9-6-10-12-8-19-4-5-20(12)14(21)13(10)11(7-9)15(16,17)18;/h2-3,6-7,12,19H,4-5,8H2,1H3;1H/b3-2-;/t12-;/m0./s1
